US06521643B1
To a suspension of 2-guanidino-4-methyl-5-(4-methylpyridin-2-ylcarbonyl)thiazole (0.1 g) in methanol (3 ml) was added sodium borohydride. (48.4 mg), and the mixture was stirred for 2 hours. The mixture was poured into 1N hydrochloric acid. The pH was adjusted to 12 with 4N aqueous sodium hydroxide, and the mixture was stirred for 15 minutes. The precipitate was collected by filtration, washed with water and dried to give N-(5-(hydroxy-(4-methylpyridin-2-yl)methyl)-4-methylthiazol-2-yl)guanidine (92 mg).

reactant | 2-guanidino-4-methyl-5-(4-methylpyridin-2-ylcarbonyl)thiazole | 0.1 g | N(C(=N)N)C=1SC(=C(N1)C)C(=O)C1=NC=CC(=C1)C | C12H13N5OS
reactant | sodium borohydride | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | N-(5-(hydroxy-(4-methylpyridin-2-yl)methyl)-4-methylthiazol-2-yl)guanidine | 92 mg | OC(C1=C(N=C(S1)NC(=N)N)C)C1=NC=CC(=C1)C | C12H15N5OS
